US08258141B2
Imidazole-1-carboxylic acid (3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-amide
A stirred solution of CDI (1.1 g, 6.77 mmol) in DCM (100 ml) is treated with 3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ylamine (WO 9965895 EP 21973) (1 g, 5.64 mmol in 50 ml of DCM) added dropwise over 30 minutes. The reaction mixture is stirred at room temperature for 15 minutes to yield the title compound as a 10 mg/ml solution in DCM. The compound is used in solution in subsequent reactions. This solution consists of the imidazole-urea (Intermediate C) together with variable amounts of the corresponding isocyanate and imidazole. This solution is used in the subsequent steps since the imidazole-urea intermediate and isocyanate intermediate are equally suitable as precursors to ureas.

reactant | CDI | 6.77 mmol, 1.1 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ylamine | 5.64 mmol, 50 ml, 1 g | N1(CCC(CC1)N)C1=NC=CC=C1 | C10H15N3
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | Imidazole-1-carboxylic acid (3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-amide | N1(CCC(CC1)NC(=O)N1C=NC=C1)C1=NC=CC=C1 | C14H17N5O
